US03998834
To a stirred and refluxing mixture of 9.5 parts of sodium carbonate and 240 parts of 4-methyl-2-pentanone are added 8.3 parts of N-[4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide and 9.6 parts of [2-(2-furanyl)ethyl] 4-methylbenzenesulfonate (water-separator). The whole is stirred and refluxed for 21 hours. The reaction mixture is cooled to room temperature and poured onto water. The organic phase is separated, washed with water, dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 7% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is converted into the ethanedioate salt in 2-propanol. The salt is filtered off and crystallized from 2-propanol, yielding 5.4 parts (39.1%) of N-{1-[2-(2-furanyl)ethyl]-4-(methoxymethyl)-4-piperidinyl}-N-phenylpropanamide ethanedioate; mp. 178.6° C.

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-[4-(methoxymethyl)-4-piperidinyl]-N-phenylpropanamide | COCC1(CCNCC1)N(C(CC)=O)C1=CC=CC=C1 | C16H24N2O2
reactant | [2-(2-furanyl)ethyl] 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OCCC=1OC=CC1 | C13H14O4S
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | N-{1-[2-(2-furanyl)ethyl]-4-(methoxymethyl)-4-piperidinyl}-N-phenylpropanamide ethanedioate | 39.1% | C(C(=O)O)(=O)O.O1C(=CC=C1)CCN1CCC(CC1)(COC)N(C(CC)=O)C1=CC=CC=C1 | InChI=1S/C22H30N2O3.C2H2O4/c1-3-21(25)24(19-8-5-4-6-9-19)22(18-26-2)12-15-23(16-13-22)14-11-20-10-7-17-27-20;3-1(4)2(5)6/h4-10,17H,3,11-16,18H2,1-2H3;(H,3,4)(H,5,6)
